US05382585
A solution of 1.8 g (24 mmol) of methoxyethylamine in 5 ml of methanol is added dropwise to a suspension of 4.0 g (24 mmol) of 7-methoxy[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide in 120 ml of methanol. The starting material goes into solution and immediately thereafter the product precipitates from the reaction mixture. After 30 minutes, the precipitate is filtered off with suction and washed with methanol. 3.4 g (68%) of 7-(2-methoxyethylamino)-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide are obtained.

reactant | methoxyethylamine | 24 mmol, 1.8 g | COCCN | C3H9NO
reactant | 7-methoxy[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide | 24 mmol, 4.0 g | COC=1C=2C(N=CN1)=NO[N+]2[O-] | C5H4N4O3
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 120 ml | CO | CH4O
product | 7-(2-methoxyethylamino)-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide | 3.4 g, 68% | COCCNC=1C=2C(N=CN1)=NO[N+]2[O-] | C7H9N5O3
